US06506936B1
6.6 Synthesis of N-Hydroxy-3-[(phenethyl)-(4-methoxybenzenesulfonyl)-amino]-propionamide (FG 126)
Freshly prepared hydroxylamine reagent (20 mL; 20 mmol) was added to ethyl 3-[(phenethyl)-(4-methoxy-benzenesulfonyl)-amino]-propionate (3.30 g; 9.1 mmol) and the resulting mixture stirred for 18 h at room temperature. The mixture was poured into 1 N HCl (100 mL) and extracted with CH2Cl2 (2×100 mL). The combined extracts were washed with saturated aqueous NaCl (1×100 mL), dried over MgSO4, and evaporated under reduced pressure to give a crude gum. Trituration with diethyl ether afforded 2.23 g (65%) of the title compound as an off-white solid. 300 MHz 1H-NMR (DMSO-d6): δ 2.23 (t, 2H), 2.74 (m, 2H), 3.23 (m, 2H), 3.34 (m, 2H), 3.83 (s, 3H), 7.11 (d, 2H), 7.15-7.34 (m, 5H), 7.72 (d, 2H), 8.78 (s, 1H), 10.50 (s, 1H).

reactant | hydroxylamine | 20 mmol, 20 mL | NO | H3NO
reactant | ethyl 3-[(phenethyl)-(4-methoxy-benzenesulfonyl)-amino]-propionate | 9.1 mmol, 3.30 g | C(CC1=CC=CC=C1)N(CCC(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)OC | C20H25NO5S
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-Hydroxy-3-[(phenethyl)-(4-methoxybenzenesulfonyl)-amino]-propionamide | 2.23 g, 65% | ONC(CCN(S(=O)(=O)C1=CC=C(C=C1)OC)CCC1=CC=CC=C1)=O | C18H22N2O5S
